US05721246
7-Bromo-1H-pyrrolo[2,3-c]pyridine (600 mg, 3.05 mmol) prepared from 2-bromo-3-nitropyridine in a similar manner to that of Preparative Example 1, powdery copper (194 mg) and cuprous chloride (603 mg) were added to 84 ml of a concentrated aqueous solution of ammonia. The obtained mixture was kept at 120° C. by heating in a sealed tube for 15 hours and treated to give 170 mg of 7-amino-1H-pyrrolo[2,3-c]pyridine. This product was reacted and treated in a similar manner to that of Examples 1 and 2 to give 57 mg of the title compound.

reactant | 7-Bromo-1H-pyrrolo[2,3-c]pyridine | 3.05 mmol, 600 mg | BrC=1N=CC=C2C1NC=C2 | C7H5BrN2
reactant | 2-bromo-3-nitropyridine | BrC1=NC=CC=C1[N+](=O)[O-] | C5H3BrN2O2
reactant | ammonia | N | H3N
catalyst | copper | 194 mg | [Cu] | Cu
product | 7-amino-1H-pyrrolo[2,3-c]pyridine | 170 mg | NC=1N=CC=C2C1NC=C2 | C7H7N3
